* Schematics Netlist *



R_R1         $N_0002 $N_0001  2  
R_R2         $N_0001 $N_0003  4  
R_R3         $N_0003 $N_0004  6  
R_R4         0 $N_0001  3  
R_R5         0 $N_0003  1  
V_V1         $N_0002 0 10V
V_V2         $N_0004 0 5V
