* Schematics Netlist *



R_R1         $N_0002 $N_0001  3  
R_R2         0 $N_0002  2  
R_R3         0 $N_0001  4  
R_R4         $N_0003 $N_0001  1  
I_I1         0 $N_0002 DC 10A  
V_V1         $N_0003 0 5V
