* Schematics Netlist *



D_D4         0 V1 D1N4002 
D_D3         0 Vin D1N4002 
D_D1         Vin Vout D1N4002 
R_R1         0 Vout  1k  
D_D2         V1 Vout D1N4002 
V_V1         Vin V1 DC 0 AC 0
+SIN 0 5V 1k 0 0 0
