* Schematics Netlist *



E_U1         Vout 0 VALUE {LIMIT(V($N_0001,Vin)*1E6,-15V,+15V)}
R_R2         $N_0001 Vout  1k  
R_R1         0 $N_0001  1k  
V_V1         Vin 0 DC 0 AC 0
+SIN 0 5v 1k 0 0 0
