* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+SIN 0 20v 1k 0 0 0
V_V2         0 $N_0002 5V
V_V3         $N_0003 0 9V
R_R1         $N_0001 $N_0004  1k  
D_D1         $N_0002 $N_0004 D1N4002 
D_D2         $N_0004 $N_0003 D1N4002 
