* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+SIN 0 20V 1k 0 0 0
R_R1         $N_0001 $N_0002  1k  
D_D1         $N_0003 $N_0002 D1N4002 
V_V2         0 $N_0003 5V
D_D2         $N_0002 $N_0004 D1N4002 
V_V3         $N_0004 0 9V
